US07939537B2
Step 5: N-(4-fluorobenzyl)-3-hydroxy-9-(ethylamino)-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxamide
To a solution of benzyl (2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidin-9-yl)carbamate in acetic acid was added HBr (30% in AcOH). The solution was stirred at room temperature for 2 hours and afterwards the solvent was removed under reduced pressure. The residue was dissolved several times in toluene and the solvent removed under reduced pressure. The resulting solid was dissolved in 1,2-dichloroethane-MeOH (1:1), acetaldehyde and sodium cyanoborohydride were added, and the mixture stirred at room temperature. After 30 minutes the solvent was removed under reduced pressure and the residue washed with H2O.

reactant | benzyl (2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidin-9-yl)carbamate | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)C=CC=C3NC(OCC3=CC=CC=C3)=O)C=C1 | C24H19FN4O5
reactant | HBr | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N-(4-fluorobenzyl)-3-hydroxy-9-(ethylamino)-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)C=CC=C3NCC)C=C1 | C18H17FN4O3
